US05763439
Into 20 ml of a dioxane solution of 2.31 g of 2-tert-butyl-4-chloro-5-nitropyridazin-3-(2H)-one, 5 ml of an aqueous solution of 0.7 g of sodium methylmercaptan was dropwise added over a period of 4 minutes under cooling with ice. The mixture was stirred at room temperature for 10 minutes and then extracted with ethyl acetate. The extract was washed with water and then with saturated sodium chloride aqueous solution, and then it was dried over anhydrous sodium sulfate and concentrated. The residual oil was subjected to column chromatography, and using an eluent (n-hexane:ethyl acetate=20:1), 1.5 g of oily 2-tert-butyl-4-methylthio-5-nitropyridazin-3-(2H)-one was obtained.

reactant | 2-tert-butyl-4-chloro-5-nitropyridazin-3-(2H)-one | 2.31 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)[N+](=O)[O-] | C8H10ClN3O3
reactant | sodium methylmercaptan | 0.7 g | CS.[Na]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-tert-butyl-4-methylthio-5-nitropyridazin-3-(2H)-one | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)SC)[N+](=O)[O-] | C9H13N3O3S
